US06482852B2
(c) 2-Cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol
To a suspension of 2-cyclohexylmethoxy-6,7,8,9-tetrahydro-benzocyclohepten-5-one (14.5 g, 53.23 mmol) in EtOH (150 mL) was added NaBH4 (1.96 g, 53.23 mmol) portionwise over 10 min. The mixture was heated to 40° C. for 1 h, cooled to 0° C., then made acidic with the addition of 1 N HCl. The white precipated solids were filtered, washed with water, and dried in vacuuo (14.25 g, 97%). m.p. 102-103° C.

reactant | 2-cyclohexylmethoxy-6,7,8,9-tetrahydro-benzocyclohepten-5-one | 53.23 mmol, 14.5 g | C1(CCCCC1)COC=1C=CC2=C(CCCCC2=O)C1 | C18H24O2
reactant | NaBH4 | 53.23 mmol, 1.96 g | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-Cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | C1(CCCCC1)COC=1C=CC2=C(CCCCC2O)C1 | C18H26O2
